US06172085B2
A mixture of 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[1,2,3,6-tetrahydro-4-(1-phenyl-3-indolyl)-1-pyridyl]methyl]-5-benzofuranamine (0.36 g), platinum oxide (72 mg), tetrahydrofuran (2 mL) and methanol (4 mL) was stirred for 3.5 hours at 60° C. under hydrogen atmosphere. The mixture was cooled, the catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=5:1) to afford 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(1-phenyl-3-indolyl)-1-piperidinyl]methyl]-5-benzofuranamine. This was dissolved in methanol and to the resulting solution 1 equivalent of oxalic acid solution in methanol was added. The mixture was concentrated and to the residue was added ethanol and diethyl ether. The resulting powdery product was collected to afford the 0.10 g of the title compound. Yield 24%.

reactant | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[1,2,3,6-tetrahydro-4-(1-phenyl-3-indolyl)-1-pyridyl]methyl]-5-benzofuranamine | 0.36 g | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(=CC2)C2=CN(C1=CC=CC=C21)C2=CC=CC=C2 | C32H35N3O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | platinum oxide | 72 mg | [Pt]=O
solvent | methanol | 4 mL | CO | CH4O
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(1-phenyl-3-indolyl)-1-piperidinyl]methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(CC2)C2=CN(C1=CC=CC=C21)C2=CC=CC=C2 | C32H37N3O
